US07618964B2
3-Hydroxyphenylacetylene (237 mg, 2 mmol) was heated with 2-bromoethylmethylether (0.23 mL, 2.4 mmol) and potassium carbonate (322 mg, 2.4 mmol) in acetone (5 mL) to 110° C. in a microwave oven (CEM Discover) for 45 minutes. Water (1 mL) was added to the mixture and the whole was extracted with dichloromethane (2×25 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo to afford a brown oil. The oil was purified by column chromatography (SiO2, dichloromethane) to afford 3-(2-methoxyethoxy)phenylacetylene as a colourless oil (247 mg, 70% yield).

reactant | 3-Hydroxyphenylacetylene | 2 mmol, 237 mg | OC=1C=C(C=CC1)C#C | C8H6O
reactant | 2-bromoethylmethylether | 2.4 mmol, 0.23 mL | BrCCOC | C3H7BrO
reactant | potassium carbonate | 2.4 mmol, 322 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 1 mL | O | H2O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 3-(2-methoxyethoxy)phenylacetylene | 247 mg, 70% yield | COCCOC=1C=C(C=CC1)C#C | C11H12O2
